US08198464B2
To a toluene (32.5 ml)-diisopropyl ether (25 ml) solution of 2-(5-bromo-2-fluorobenzyl)-1-benzothiophene (5.0 g) was dropwise added a n-hexane solution (10 ml) of n-butyl lithium (1.6 M) at −43.5 to −33.3° C., followed by stirring for 10 minutes. To the reaction mixture was added, at −72.6 to −65.0° C., a toluene (17.5 ml) solution of 2,3,4,6-tetrakis-O-(trimethylsilyl)-D-glucono-1,5-lactone (8.0 g), followed by stirring for 6 hours. The reaction mixture was added to a methanol (25 ml) solution of an ethyl acetate solution (7.8 ml) of hydrogen chloride (4 M) at a temperature of 0° C. or lower, followed by stirring at 0° C. for 17 hours. The reaction mixture was added to a water (35 ml) solution of potassium carbonate (1.29 g). Thereto was added ethyl acetate, followed by extraction. The aqueous layer was extracted with toluene (20 ml)-ethyl acetate (10 ml). The organic layers obtained by extraction were combined and subjected to vacuum distillation to distil off the solvent until the reside became 40 ml. Toluene (25 ml) was added to the residue and the mixture was subjected to vacuum distillation to distil off the solvent until the residue became 40 ml. This operation of adding toluene to the residue and subjecting the mixture to vacuum distillation to distil off the solvent, was repeated twice to obtain methyl 1-C-[3-(1-benzothien-2-ylmethyl)-4-fluorophenyl]-α-glucopyranoside as a toluene solution.

reactant | diisopropyl ether | 25 ml | C(C)(C)OC(C)C | C6H14O
reactant | 2-(5-bromo-2-fluorobenzyl)-1-benzothiophene | 5.0 g | BrC=1C=CC(=C(CC=2SC3=C(C2)C=CC=C3)C1)F | C15H10BrFS
reactant | n-butyl lithium | 1.6 M | C(CCC)[Li]
reactant | 2,3,4,6-tetrakis-O-(trimethylsilyl)-D-glucono-1,5-lactone | 8.0 g | C[Si](O[C@H]1C(=O)O[C@@H]([C@H]([C@@H]1O[Si](C)(C)C)O[Si](C)(C)C)CO[Si](C)(C)C)(C)C | C18H42O6Si4
reactant | hydrogen chloride | 4 M | Cl | ClH
reactant | potassium carbonate | 1.29 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 35 ml | O | H2O
solvent | ethyl acetate | 7.8 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 25 ml | CO | CH4O
solvent | toluene | 17.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | n-hexane | 10 ml | CCCCCC | C6H14
solvent | toluene | 32.5 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 1-C-[3-(1-benzothien-2-ylmethyl)-4-fluorophenyl]-α-glucopyranoside | S1C(=CC2=C1C=CC=C2)CC=2C=C(C=CC2F)[C@@]2(OC)[C@H](O)[C@@H](O)[C@H](O)[C@H](O2)CO | C22H23FO6S
